US08283353B2
4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A solution of N-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-5-amine (260 mg), ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (1.08 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (236 mg) in N,N-diethylaniline (20 mL) was stirred at 180° C. for 16 hr. The reaction mixture was diluted with ethyl acetate-tetrahydrofuran (1:1), and the mixture was washed with 1 N hydrochloric acid and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=50/50→10/90 (volume ratio)] to give the title compound as a brown amorphous compound (207 mg, 29%).

reactant | N-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-5-amine | 260 mg | O1CCC(CC1)NC1=CN=NN1 | C7H12N4O
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 1.08 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 236 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | N,N-diethylaniline | 20 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=NC2)C2CCOCC2 | C27H27N5O2
